US05990142
20C 4-(4-Phenylbutoxy)styrene
A solution of methyltriphenylphosphonium bromide (4.98 g, 13.9 mmol) in anhydrous tetrahydrofuran (130 ml) at 0° C. and under inert atmosphere was added with a 1.6M butyl lithium solution in hexane (8.69 ml) and the mixture was left under stirring at 0° C. for 2 h. After that, a solution of 4-(4-phenylbutoxy)benzaldehyde (2.5 g, 9.84 mmol) in tetrahydrofuran (10 ml) was added and the mixture was left under stirring at room temperature for 36 h, then carefully added with water (20 ml) and extracted with ethyl ether (4×50 ml). The organic extracts were dried and the solvents were evaporated off under reduced pressure. The resulting crude was purified by chromatography through a silica gel column, eluting with petroleum ether:ethyl ether, 95:5, thereby recovering 4.20 g of the title compound (62% yield).

reactant | butyl lithium | 1.6M | C(CCC)[Li]
reactant | 4-(4-phenylbutoxy)benzaldehyde | 9.84 mmol, 2.5 g | C1(=CC=CC=C1)CCCCOC1=CC=C(C=O)C=C1 | C17H18O2
reactant | water | 20 ml | O | H2O
reactant | ethyl ether | C(C)OCC | C4H10O
catalyst | methyltriphenylphosphonium bromide | 13.9 mmol, 4.98 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | hexane | 8.69 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-Phenylbutoxy)styrene | 4.20 g, 62% yield | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C)C=C1 | C18H20O
